US05380734
(A) N-(2-Furanylmethyl)-α-methyl-α-(phenylmethyl)-2-pyridineethanimidothioic acid, methyl ester
A solution of 2-(1-methyl-2-phenylethyl)pyridine (6.12 g, 31 mmol) in 60 mL of anhydrous tetrahydrofuran under nitrogen at -35° C. was treated (via syringe) with 2.50 N n-butyllithium/hexane (30 mmol), and stirred at -25(±5)° C. for 30 minutes. The mixture was transferred via a cannula over a 15-minute period into a cooled (-70° C.) solution of 2-furanylmethyl isothiocyanate (prepared in 89% yield from 2-furanylmethylamine by the procedure of J. C. Jochims and A. Seeliger, Angew. Chem. Int. Ed. Engl. 6, 174-175 (1967) (4.45 g, 32 mmol)in 25 mL of anhydrous tetrahydrofuran under nitrogen. The solution was warmed to 25° C. over one hour, maintained at room temperature for 30 minutes, cooled (0° C.), and treated (via syringe) with methyl iodide (4.68 g, 2.05 mL, 33 mmol). After 30 minutes at room temperature, the cooled (0° C.) solution was poured into a stirred mixture of 300 mL of chloroform and 150 mL of ice water. The organic layer was separated, and the aqueous solution was extracted with 150 mL of chloroform. The combined organic extracts were washed with 150 mL of brine, dried (Na2SO4) and concentrated in vacuo to afford the crude intermediate used below without further purification.

reactant | 2-(1-methyl-2-phenylethyl)pyridine | 31 mmol, 6.12 g | CC(CC1=CC=CC=C1)C1=NC=CC=C1 | C14H15N
reactant | n-butyllithium hexane | 30 mmol, 2.50 N | C(CCC)[Li].CCCCCC
reactant | 2-furanylmethyl isothiocyanate | O1C(=CC=C1)CN=C=S | C6H5NOS
reactant | 2-furanylmethylamine | O1C(=CC=C1)CN | C5H7NO
reactant | methyl iodide | 33 mmol, 2.05 mL, 4.68 g | CI | CH3I
solvent | tetrahydrofuran | 60 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 25 mL | O1CCCC1 | C4H8O
solvent | chloroform | 300 mL | C(Cl)(Cl)Cl | CHCl3
product | N-(2-Furanylmethyl)-α-methyl-α-(phenylmethyl)-2-pyridineethanimidothioic acid, methyl ester | 89% yield | O1C(=CC=C1)CN=C(C(C1=NC=CC=C1)(CC1=CC=CC=C1)C)SC | C21H22N2OS
